US06440972B1
To a suspension of 3-fluoro-4-iodopyridine (2.23 g), 1-(tert-butoxycarbonyl)-4-(piperidin-4-ylcarbonyl)piperazine (1.49 g) and sodium t-butoxide (1.06 g) in 1,4-dioxan (20 ml) was added tris(dibenzylidene acetone)dipalladium(0) (0.09 g) and tri-o-tolylphosphine (0.12 g) and the mixture heated at reflux for 3 hours. The mixture was diluted with diethyl ether and washed with saturated aqueous sodium chloride solution, dried (Na2SO4) and evaporated. The residue was purified by chromatography on alumina (N32-63) eluting with 0.4% methanol in dichloromethane to give as a solid, 1-(tert-butoxycarbonyl)-4-[1-(3-fluoro-4-pyridyl)piperidin-4-ylcarbonyl]piperazine (0.70 g).

reactant | 3-fluoro-4-iodopyridine | 2.23 g | FC=1C=NC=CC1I | C5H3FIN
reactant | 1-(tert-butoxycarbonyl)-4-(piperidin-4-ylcarbonyl)piperazine | 1.49 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCNCC1 | C15H27N3O3
reactant | sodium t-butoxide | 1.06 g | CC(C)([O-])C.[Na+]
reactant | tri-o-tolylphosphine | 0.12 g | C1(=C(C=CC=C1)P(C1=C(C=CC=C1)C)C1=C(C=CC=C1)C)C | C21H21P
solvent | 1,4-dioxan | 20 ml | O1CCOCC1 | C4H8O2
solvent | diethyl ether | C(C)OCC | C4H10O
catalyst | tris(dibenzylidene acetone)dipalladium(0) | 0.09 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | 1-(tert-butoxycarbonyl)-4-[1-(3-fluoro-4-pyridyl)piperidin-4-ylcarbonyl]piperazine | 0.70 g | C(C)(C)(C)OC(=O)N1CCN(CC1)C(=O)C1CCN(CC1)C1=C(C=NC=C1)F | C20H29FN4O3
